US09340538B2
Step B: Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(oxazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Oxazole-2-carboximidamide hydrochloride (1.28 g, 8.69 mmol) was reacted with 2-bromo-4-fluorobenzaldehyde (1.76 g, 8.69 mmol) and ethyl 3-oxobutanoate (1.36 g, 10.5 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (1.35 g, 38%). The compound was characterized by the following spectroscopic data:

reactant | Oxazole-2-carboximidamide hydrochloride | 8.69 mmol, 1.28 g | Cl.O1C(=NC=C1)C(N)=N
reactant | 2-bromo-4-fluorobenzaldehyde | 8.69 mmol, 1.76 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | ethyl 3-oxobutanoate | 10.5 mmol, 1.36 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(oxazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.35 g, 38% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1OC=CN1 | C17H15BrFN3O3
